US09227923B2
Methyl 4-cyano-3-(1H-pyrazol-1-yl)benzoate (0.27 g) was dissolved in tetrahydrofuran (10 ml). To the solution, a solution in which lithium hydroxide monohydrate (0.10 g) is dissolved in water (10 ml) was added at room temperature. The reaction mixture was stirred for 2 hours. The reaction solution was acidified with 2 N hydrochloric acid, and then extracted twice with ethyl acetate. The organic phases were combined, washed with water, and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration, and the solvent was distilled off under reduced pressure to obtain a crude product of 4-cyano-3-(1H-pyrazol-1-yl)benzoic acid (0.23 g). The crude product was used for the next step without further purification.

reactant | Methyl 4-cyano-3-(1H-pyrazol-1-yl)benzoate | 0.27 g | C(#N)C1=C(C=C(C(=O)OC)C=C1)N1N=CC=C1 | C12H9N3O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | lithium hydroxide monohydrate | 0.10 g | O.[OH-].[Li+]
solvent | water | 10 ml | O | H2O
product | 4-cyano-3-(1H-pyrazol-1-yl)benzoic acid | 0.23 g | C(#N)C1=C(C=C(C(=O)O)C=C1)N1N=CC=C1 | C11H7N3O2
